US04709032
In 200 ml of chloroform was dissolved 12.0 g of 1,2-diaminoethane, and to the solution was added dropwise 100 ml of a chloroform solution containing 4.55 g of 5-isoquinolinesulfonyl chloride under cooling with ice. After the dropwise addition of the chloroform solution, the mixed solution was stirred at a temperature of 20° C. to 25° C. for two hours, and then the reaction solution was extracted with a 10% aqueous hydrochloric acid solution. The pH of the aqueous layer was adjusted to 10 with a 10% aqueous sodium hydroxide solution, and the aqueous layer was extracted with chloroform. The chloroform layer extracted was washed with water and dried with anhydrous potassium carbonate. Then the chloroform was distilled from the chloroform layer, and the residue obtained was subjected to a column chromatography [silica gel: 200 g; developing solvent: 2% methanol/chloroform (volume ratio)] to give 3.3 g of N-(2-aminoethyl)-5-isoquinolinesulfonamide as an oily substace in a yield of 66%.

reactant | 1,2-diaminoethane | 12.0 g | NCCN | C2H8N2
reactant | 5-isoquinolinesulfonyl chloride | 4.55 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-aminoethyl)-5-isoquinolinesulfonamide | 3.3 g, yield of 66% | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C11H13N3O2S
